US08957078B2
To a solution of phenylsilane (478.5 mg, 550.0 μL, 4.422 mmol) and allyl 2-amino-5-[2-(dimethylamino)ethoxy]pyrazolo[1,5-a]pyrimidine-3-carboxylate (900 mg, 2.948 mmol) in DCM (5 mL) was added palladium triphenylphosphane (170.3 mg, 0.1474 mmol). The reaction mixture was stirred at room temperature for 3 h. Ether was slowly added to the mixture and a white solid precipitated. This solid was filtered off, washed with small amount of diethyl ether and dried to afford pure 2-amino-5-(2-(dimethylamino)ethoxy)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid as off-white solid. (530 mg, 67% yield).

reactant | phenylsilane | 4.422 mmol, 550.0 μL, 478.5 mg | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | allyl 2-amino-5-[2-(dimethylamino)ethoxy]pyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.948 mmol, 900 mg | NC1=NN2C(N=C(C=C2)OCCN(C)C)=C1C(=O)OCC=C | C14H19N5O3
reactant | Ether | CCOCC | C4H10O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium triphenylphosphane | 0.1474 mmol, 170.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2-amino-5-(2-(dimethylamino)ethoxy)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 67% yield | NC1=NN2C(N=C(C=C2)OCCN(C)C)=C1C(=O)O | C11H15N5O3
